US04376777
In 100 ml of dry dimethylformamide is dissolved 9.6 g of ethyl 2-chloroacetoacetate, and under ice cooling, 2.32 g of 60% sodium hydride in oil is added. The mixture is stirred at room temperature for 30 minutes. To this mixture are added 12.5 g of 3,4-diethoxybenzyl chloride and 30 ml of dry dimethylformamide, and the mixture is stirred at 70° C. for 2 hours. The mixture is then poured into a mixture of 200 g ice and 50 ml 6N-HCl and extracted with ether. The ethereal layer is washed with water, dried over MgSO4 and distilled to remove the ether. Column chromatography is carried out on the oily residue with 200 g of silica gel, elution being carried out with a 1:4 mixture of ether and n-hexane. The above procedure provides 14.2 g (71.4%) of ethyl 2-acetyl-2-chloro-3-(3,4-diethoxyphenyl)propionate as oil.

reactant | ethyl 2-chloroacetoacetate | 9.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | sodium hydride | 2.32 g | [H-].[Na+]
reactant | 3,4-diethoxybenzyl chloride | 12.5 g | C(C)OC=1C=C(CCl)C=CC1OCC | C11H15ClO2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 2-acetyl-2-chloro-3-(3,4-diethoxyphenyl)propionate | 14.2 g, 71.4% | C(C)(=O)C(C(=O)OCC)(CC1=CC(=C(C=C1)OCC)OCC)Cl | C17H23ClO5
